data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:2](=[O:3])([c:12]1[cH:10][c:14]([N+:19](=[O:9])[O-:22])[cH:20][c:11]2[c:24]1[n:18][o:23][n+:28]2[O-:5])[O-:17].[O-:1][C:21](=[CH:4][c:8]1[cH:15][cH:6][cH:26][cH:7][cH:16]1)[O:25][CH2:27][CH3:13]>>[O:1]=[C:21]([CH:4]([c:8]1[cH:15][cH:6][cH:26][cH:7][cH:16]1)[CH:20]1[c:11]2[c:24]([n:18][o:23][n+:28]2[O-:5])[C:12]([N+:2](=[O:3])[O-:17])=[CH:10][C:14]1=[N+:19]([O-:9])[O-:22])[O:25][CH2:27][CH3:13]", "epd": [["LP-/Pi+", [1], [21, 1]], ["Pi-/Sigma+", [4, 21], [4, 20]], ["Pi-/Pi+", [20, 14], [14, 19]], ["Pi-/LP+", [19, 9], [9]]]}
{"reaction_name": "Boc deprotection", "rsmi": "[CH3:1][N:7]([H:8])[C:13](=[O:11])[O:12][C:6]([CH3:9])([CH3:10])[C:14]([H:2])([H:3])[H:4].[H+:5]>>[CH3:1][N:7]([H:5])[H:8].[H+:2].[H:3][C:14]([H:4])=[C:6]([CH3:9])[CH3:10].[O:11]=[C:13]=[O:12]", "epd": [["Sigma-/LP+", [7, 13], [7]], ["LP-/Sigma+", [7], [5, 7]], ["Sigma-/Pi+", [6, 12], [12, 13]], ["Sigma-/Pi+", [2, 14], [6, 14]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:3][O:8][c:17]1[cH:48][cH:23][c:22]([CH:37]=[C:36]2[CH:38]=[C:18]([Br:27])[C:20](=[O:25])[C:19]([Br:28])=[CH:39]2)[cH:24][cH:49]1.[cH:1]1[cH:15][cH:31][c:41]([N:21]2[C:4](=[C:26]([c:2]3[cH:9][cH:42][cH:5][cH:43][cH:10]3)[O:6][CH3:44])[N:7]([c:50]3[cH:13][cH:34][cH:30][cH:35][cH:14]3)[N:45]=[C:33]2[c:29]2[cH:46][cH:11][cH:40][cH:12][cH:47]2)[cH:32][cH:16]1>>[cH:1]1[cH:15][cH:31][c:41](-[n:21]2[c:4]([C:26]([c:2]3[cH:9][cH:42][cH:5][cH:43][cH:10]3)([O:6][CH3:44])[CH:37]([c:22]3[cH:23][cH:48][c:17]([O:8][CH3:3])[cH:49][cH:24]3)[c:36]3[cH:38][c:18]([Br:27])[c:20]([O-:25])[c:19]([Br:28])[cH:39]3)[n+:7](-[c:50]3[cH:13][cH:34][cH:30][cH:35][cH:14]3)[n:45][c:33]2-[c:29]2[cH:46][cH:11][cH:40][cH:12][cH:47]2)[cH:32][cH:16]1", "epd": [["LP-/Pi+", [7], [4, 7]], ["Pi-/Sigma+", [26, 4], [26, 37]], ["Pi-/Pi+", [37, 36], [36, 38]], ["Pi-/Pi+", [38, 18], [18, 20]], ["Pi-/LP+", [20, 25], [25]]]}
{"reaction_name": "Ketal exchange", "rsmi": "[CH2:1]([CH2:2][O:8][H:13])[O:7][H:12].[CH3:3][O:9][C:11]([CH3:5])([CH3:6])[O:10][CH3:4]>>[CH2:1]1[CH2:2][O:8][C:11]([CH3:5])([CH3:6])[O:7]1.[CH3:3][O:9][H:12].[CH3:4][O:10][H:13]", "epd": [["LP-/Sigma+", [7], [7, 11]], ["Sigma-/LP+", [9, 11], [9]], ["LP-/Sigma+", [9], [9, 12]], ["Sigma-/LP+", [7, 12], [7]], ["LP-/Sigma+", [8], [8, 11]], ["Sigma-/LP+", [10, 11], [10]], ["LP-/Sigma+", [10], [10, 13]], ["Sigma-/LP+", [8, 13], [8]]]}
{"reaction_name": "Addition to ketenes", "rsmi": "[CH2:2]=[C:5]=[O:3].[O-:1][CH3:4]>>[O:1]([CH3:4])[C:5]([CH2-:2])=[O:3]", "epd": [["LP-/Sigma+", [1], [1, 5]], ["Pi-/LP+", [3, 5], [3]], ["LP-/Pi+", [3], [3, 5]], ["Pi-/LP+", [2, 5], [2]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[N+:7](=[CH:17][CH3:14])([O-:20])[O-:21].[cH:1]1[cH:8][cH:12][cH:11][cH:4][c:22]1[P:6](=[O:15])([c:23]1[cH:2][cH:9][cH:13][cH:10][cH:3]1)[N:24]=[CH:5][c:16]1[cH:26][cH:18][cH:25][cH:19][cH:27]1>>[cH:1]1[cH:8][cH:12][cH:11][cH:4][c:22]1[P:6]([O-:15])([c:23]1[cH:2][cH:9][cH:13][cH:10][cH:3]1)=[N:24][CH:5]([c:16]1[cH:26][cH:18][cH:25][cH:19][cH:27]1)[CH:17]([N+:7](=[O:20])[O-:21])[CH3:14]", "epd": [["LP-/Pi+", [20], [7, 20]], ["Pi-/Sigma+", [17, 7], [17, 5]], ["Pi-/Pi+", [5, 24], [24, 6]], ["Pi-/LP+", [6, 15], [15]]]}
{"reaction_name": "Boronate ester exchange", "rsmi": "[CH2:2]([CH2:3][O:8][H:17])[O:7][H:16].[c:1]1([B:4]([O:14][CH3:10])[O:15][CH3:11])[cH:12][cH:5][cH:9][cH:6][cH:13]1>>[CH3:10][O:14][H:16].[CH3:11][O:15][H:17].[c:1]1([B:4]2[O:7][CH2:2][CH2:3][O:8]2)[cH:12][cH:5][cH:9][cH:6][cH:13]1", "epd": [["LP-/Sigma+", [7], [4, 7]], ["Sigma-/LP+", [4, 14], [14]], ["LP-/Sigma+", [14], [14, 16]], ["Sigma-/LP+", [7, 16], [7]], ["LP-/Sigma+", [8], [4, 8]], ["Sigma-/LP+", [4, 15], [15]], ["LP-/Sigma+", [15], [15, 17]], ["Sigma-/LP+", [8, 17], [8]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:1]1([Cl:13])=[C:21]([Cl:10])[C:22]([Cl:16])=[C:9]([Cl:15])[C:20]([Cl:3])([Cl:4])[C:11]1=[O:14].[cH:2]1[cH:6][c:7]2[c:19]([cH:12][cH:23]1)[CH:18]=[CH:5][CH:17]2[Li:8]>>[Li+:8].[c:1]1([Cl:13])[c:11]([O-:14])[c:20]([Cl:4])[c:9]([Cl:15])[c:22]([Cl:16])[c:21]1[Cl:10].[cH:2]1[cH:6][c:7]2[c:19]([cH:12][cH:23]1)[CH:18]=[CH:5][CH:17]2[Cl:3]", "epd": [["Sigma-/Sigma+", [17, 8], [17, 3]], ["Sigma-/Pi+", [3, 20], [20, 11]], ["Pi-/LP+", [11, 14], [14]]]}
{"reaction_name": "N-Acylation of amines", "rsmi": "[C:1]([Cl:2])(=[O:3])[CH3:7].[N:4]([CH3:5])([CH3:6])[H:8]>>[C:1](=[O:3])([N:4]([CH3:5])[CH3:6])[CH3:7].[Cl:2][H:8]", "epd": [["LP-/Sigma+", [4], [1, 4]], ["Pi-/LP+", [1, 3], [3]], ["LP-/Pi+", [3], [1, 3]], ["Sigma-/LP+", [1, 2], [2]], ["LP-/Sigma+", [2], [2, 8]], ["Sigma-/LP+", [4, 8], [4]]]}
{"reaction_name": "Desilylation of silyl ethers", "rsmi": "[F-:3].[O:1]([Si:2]([CH3:4])([CH3:5])[CH3:6])[CH3:7]>>[O-:1][CH3:7].[Si:2]([F:3])([CH3:4])([CH3:5])[CH3:6]", "epd": [["LP-/Sigma+", [3], [2, 3]], ["Sigma-/LP+", [1, 2], [1]]]}
